US05998424
N-(4-Methoxyphenyl)glycine
To a solution of 19.59 g (108 mmol) of ethyl N-(4-methoxyphenyl)glycine in 100 mL of THF under N2 was added 5.44 g (130 mmol) of lithium hydroxide monohydrate in 25 mL water. After 15 hours, the mixture was reduced to 1/2 the original volume in vacuo and then acidified with concentrated hydrochloric acid to ph 3 and a precipitate formed. The solid was collected and washed with 100 mL water, then dried in vacuo to give 9.92 g (51%) of the desired compound as a off-white solid. 1H NMR (CDCl3): δ6.68 (d, J=8.8, 2H); 6.49 (d, J=8.8, 2H); 3.73 (s, 2H); 3.64 (s, 3H); 2.49 (br s, 2H).

reactant | ethyl N-(4-methoxyphenyl)glycine | 108 mmol, 19.59 g | C(C)N(CC(=O)O)C1=CC=C(C=C1)OC | C11H15NO3
reactant | lithium hydroxide monohydrate | 130 mmol, 5.44 g | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 25 mL | O | H2O
product | N-(4-Methoxyphenyl)glycine | 9.92 g, 51% | COC1=CC=C(C=C1)NCC(=O)O | C9H11NO3
